US04963691
A mixture of 53.6 g (0.02 mole) of 3,8-dibutyl-2,7-dioxospiro-[4.4]nonane-1,6-dione, 10.32 g (0.08 mole) of aniline hydrochloride and 40 ml of aniline was placed in a 500 ml round bottom flask and heated to reflux. After refluxing for 6 hours, the aniline was removed by distillation at reduced pressure. The resulting mixture was subjected to column chromatography employing a 2:1 mixture of diethyl ether and petroleum ether as eluent. The product, 3,8-dibutyl-2,7-diphenyl-2,7-diazaspiro[4.4]nonane-1,6-dione, was isolated as a viscous oil in a yield of about 86%. The infrared, 13C-NMR and mass spectra of the product were consistent with this structure.

reactant | 3,8-dibutyl-2,7-dioxospiro-[4.4]nonane-1,6-dione | 0.02 mole, 53.6 g | C(CCC)C1C(C(C2(C1)C(C(C(C2)CCCC)=O)=O)=O)=O | C17H24O4
reactant | aniline hydrochloride | 0.08 mole, 10.32 g | Cl.NC1=CC=CC=C1
solvent | aniline | 40 ml | NC1=CC=CC=C1 | C6H7N
product | 3,8-dibutyl-2,7-diphenyl-2,7-diazaspiro[4.4]nonane-1,6-dione | yield of about 86% | C(CCC)C1N(C(C2(C1)C(N(C(C2)CCCC)C2=CC=CC=C2)=O)=O)C2=CC=CC=C2 | C27H34N2O2
